US07517873B2
To a solution of 1.67 g (0.009 mole) of 3-cyclopentylaminomethyl-dihydro-furan-2-one in 25 mL of ethyl ether was added 15 mL of ice-water followed by 1.68 g (0.0087 mole) of 2,4-dichloro-5-nitro-pyrimidine. A solution of 1.36 g (0.014 mole) of potassium bicarbonate in 5 mL of water was added over 20 minutes. The mixture was stirred overnight at ambient temperature. The mixture was concentrated under reduced pressure to remove the ethyl ether and the mixture then filtered, washing with water and then water-acetonitrile. The solid was purified by recrystallization from hexanes-ethyl acetate (1:1) to give 2.2 g of (rac)-3-{[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-dihydro-furan-2-one (IV-49).

reactant | 3-cyclopentylaminomethyl-dihydro-furan-2-one | 0.009 mole, 1.67 g | C1(CCCC1)NCC1C(OCC1)=O | C10H17NO2
reactant | 2,4-dichloro-5-nitro-pyrimidine | 0.0087 mole, 1.68 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | potassium bicarbonate | 0.014 mole, 1.36 g | C([O-])(O)=O.[K+]
solvent | ethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | water | 5 mL | O | H2O
product | (rac)-3-{[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-dihydro-furan-2-one | 2.2 g | ClC1=NC=C(C(=N1)N(C1CCCC1)CC1C(OCC1)=O)[N+](=O)[O-] | C14H17ClN4O4
